US04515948
A solution of 50.6 g. of 4-amino-3,5-dimethoxy-benzoic acid methyl ester in 1 liter of absolute pyridine was treated during 30 minutes with 82 g. of carbobenzoxy chloride with stirring and ice-cooling. Thereafter, the mixture was stirred at room temperature for 20 hours. The pyridine was evaporated under vacuum and the residue treated with 1 liter of water and 3N hydrochloric acid to obtain a strongly acidic reaction. The resulting emulsion was extracted with two 1.5 liter portions of ethyl acetate. The ethyl acetate extract was washed with two 800 ml. portions of water, dried over magnesium sulfate and evaporated under vacuum. After recrystallization of the residue from ethyl acetate, there was obtained 2,6-dimethoxy-4-(methoxy-carbonyl)-carbanilic acid benzyl ester having a melting point of 132°-133° C.

reactant | 4-amino-3,5-dimethoxy-benzoic acid methyl ester | COC(C1=CC(=C(C(=C1)OC)N)OC)=O | C10H13NO4
reactant | carbobenzoxy chloride | C(=O)(OCC1=CC=CC=C1)Cl | C8H7ClO2
solvent | pyridine | 1 liter | N1=CC=CC=C1 | C5H5N
product | 2,6-dimethoxy-4-(methoxy-carbonyl)-carbanilic acid benzyl ester | C(C1=CC=CC=C1)OC(NC1=C(C=C(C=C1OC)C(=O)OC)OC)=O | C18H19NO6
